US06022492
Synthesis of 5-(6-butoxypyridin-3-yl)-2-chloropyrimidine
A reaction of 109 mmol of 5-bromo-2-chloropyrimidine, 109 mmol of 2-butoxypyridine-5-boronic acid, 218 mmol of sodium carbonate and 1.1 mmol of tetrakis(triphenylphosphine)palladium(0) in 200 ml of toluene, 100 ml of ethanol and 100 ml of water is carried out analogously to the procedure indicated for precursor 3. Corresponding purification gives 10.8 g (38%) of a colorless solid, m.p. 117° C., cl.p. 130° C.

reactant | 5-bromo-2-chloropyrimidine | 109 mmol | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2-butoxypyridine-5-boronic acid | 109 mmol | C(CCC)OC1=NC=C(C=C1)B(O)O | C9H14BNO3
reactant | sodium carbonate | 218 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.1 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(6-butoxypyridin-3-yl)-2-chloropyrimidine | 10.8 g, 38% | C(CCC)OC1=CC=C(C=N1)C=1C=NC(=NC1)Cl | C13H14ClN3O
